US06680329B2
A mixture of 5.16 g (11.5 mmol) of phenylmethyl (S)-5-nitro-α-[[(phenylmethoxy)carbonyl]amino]-2-pyridinebutanoate, 2 g of active charcoal and 0.77 g of active palladium-on-charcoal in 100 ml of methanol and 100 ml of water is stirred for 4 days at 50 psi of hydrogen at room temperature. The reaction medium is filtered through a cake of Celite and the cake is rinsed with 3×50 ml of boiling water. The aqueous phases are combined and concentrated under reduced pressure. 2.05 g of (S)-α,5-diamino-2-pyridinebutanoic acid are thus obtained in the form of a white solid.

reactant | phenylmethyl (S)-5-nitro-α-[[(phenylmethoxy)carbonyl]amino]-2-pyridinebutanoate | 11.5 mmol, 5.16 g | [N+](=O)([O-])C=1C=CC(=NC1)CC[C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1 | C24H23N3O6
reactant | charcoal | 2 g | C | CH4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
catalyst | palladium-on-charcoal | 0.77 g | [Pd] | Pd
product | (S)-α,5-diamino-2-pyridinebutanoic acid | 2.05 g, Yield (%)=92 | N[C@H](C(=O)O)CCC1=NC=C(C=C1)N | C9H13N3O2
